US06048864
(a) 6-Cyclobutyloxy-3,4-dimethoxy-[1-(5-methanesulfonamido-1,2,3,4-tetrahydroisoquinol-2-yl)ethylideneamino]benzonitrile
The subtitle compound was prepared from 2-cyano-3-cyclobutyloxy-4,5-dimethoxyaniline and 2-acetyl-5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline following the procedure described in Example 10(g). Trituration with diethyl ether afforded the subtitle compound as a colourless solid (85%). Rf 0.14 (ethyl acetate:hexane 1: 1, v/v).

reactant | 2-cyano-3-cyclobutyloxy-4,5-dimethoxyaniline | C(#N)C1=C(N)C=C(C(=C1OC1CCC1)OC)OC | C13H16N2O3
reactant | 2-acetyl-5-methanesulfonamido-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C | C12H16N2O3S
reactant | diethyl ether | C(C)OCC | C4H10O
product | 6-Cyclobutyloxy-3,4-dimethoxy-[1-(5-methanesulfonamido-1,2,3,4-tetrahydroisoquinol-2-yl)ethylideneamino]benzonitrile | 85% | C1(CCC1)OC1=CC(=C(C(=C1C#N)N=C(C)N1CC2=CC=CC(=C2CC1)NS(=O)(=O)C)OC)OC | C25H30N4O5S
